US08541588B2
4-(biphenyl-2-yloxy)-3-cyano-benzenesulfonic acid pentafluorophenyl ester
A solution of 4-(biphenyl-2-yloxy)-3-cyano-benzenesulfonyl chloride (Preparation 55, 500 mg, 1.35 mmol) in dichloromethane (5 ml) was added slowly to pentafluorophenol (249 mg, 1.35 mmol) and Et3N (137 mg, 1.35 mmol) in dichloromethane (5 ml) and stirring continued overnight at ambient temperature. The reaction was concentrated in vacuo and purified using silica gel column chromatography (dichloromethane/heptane 40/60, then 60/40, then 80/20, then dichloromethane) to furnish the title compound. LCMS Rt=1.92 minutes 1H NMR (400 MHz; CDCl3) δ (ppm): 6.69 (d, J=8.98 Hz, 1H) 7.21-7.30 (m, 2H) 7.31-7.38 (m, 2H) 7.43-7.53 (m, 4H) 7.53-7.58 (m, 1H) 7.79 (dd, J=8.98, 2.34 Hz, 1H) 8.06 (d, J=2.34 Hz, 1H) 19F NMR (376 MHz, CDCl3) δ (ppm): 160.82 (t, J=19.50 Hz)-154.87 (t, J=21.80 Hz)-151.09 (d, J=17.21 Hz)

reactant | 4-(biphenyl-2-yloxy)-3-cyano-benzenesulfonyl chloride | 1.35 mmol, 500 mg | C1(=C(C=CC=C1)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C#N)C1=CC=CC=C1 | C19H12ClNO3S
reactant | pentafluorophenol | 1.35 mmol, 249 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | Et3N | 1.35 mmol, 137 mg | CCN(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(biphenyl-2-yloxy)-3-cyano-benzenesulfonic acid pentafluorophenyl ester | FC1=C(C(=C(C(=C1OS(=O)(=O)C1=CC(=C(C=C1)OC1=C(C=CC=C1)C1=CC=CC=C1)C#N)F)F)F)F | C25H12F5NO4S
